US04475002
In these examples and comparative examples, ethylbenzene was sulfonated with sulfuric acid in the presence of anhydrous sodium sulfate, isomerized, hydrolyzed (desulfonated), separated from excess sulfuric acid, neutralized and fused with an alkali to give m-ethylphenol. The composition of the reaction mixture in each step was examined, and the relationship with the quantity of sodium sulfate was investigated.

reactant | ethylbenzene | C(C)C1=CC=CC=C1 | C8H10
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | sodium sulfate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
product | m-ethylphenol | C(C)C=1C=C(C=CC1)O | C8H10O
